US09079902B2
1-Methyl-3-(3-(Methylsulfonyl)Phenyl)-N-(1,2,4-Thiadiazol-5-yl)-1H-Indole-6-Sulfonamide
The title compound was prepared in an analogous manner to that described in Example 28 using (3-(methylsulfonyl)phenyl)boronic acid and 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, and the desired product, 1-methyl-3-(3-(methylsulfonyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide, was isolated as an off-white solid. 1H NMR (500 MHz, DMSO-d6) δ ppm 3.91 (s, 3 H) 7.57 (dd, J=8.48, 1.49 Hz, 1 H) 7.71 (t, J=7.73 Hz, 1 H) 7.77 (d, J=8.02 Hz, 1 H) 7.84-7.95 (m, 3 H) 8.02 (d, J=7.90 Hz, 2 H) 8.05 (s, 1 H) 8.13 (s, 1 H). m/z (ESI) 448.0 (M+H)+.

reactant | (3-(methylsulfonyl)phenyl)boronic acid | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-1-methyl-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | BrC1=CN(C2=CC(=CC=C12)S(=O)(=O)N(C1=NC=NS1)CC1=C(C=C(C=C1)OC)OC)C | C20H19BrN4O4S2
product | 1-methyl-3-(3-(methylsulfonyl)phenyl)-N-(1,2,4-thiadiazol-5-yl)-1H-indole-6-sulfonamide | CN1C=C(C2=CC=C(C=C12)S(=O)(=O)NC1=NC=NS1)C1=CC(=CC=C1)S(=O)(=O)C | C18H16N4O4S3
